US09212192B2
(4-amino-3-methoxyphenyl)(pyrrolidin-1-yl)methanone
To a solution of 4-amino-3-methoxybenzoic acid (167 mg, 1 mmol) in dichloromethane (20 mL) at 0° C. was added pyrrolidine (71 mg, 1 mmol), hydroxybenzotriazole monohydrate (270 mg, 2 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (384 mg, 2 mmol) and triethylamine (0.5 mL, 3 mmol). After stirring for 2 hours, the mixture was diluted with water and extracted with dichloromethane. The organic phase was concentrated and the residue was purified by flash chromatography on silica gel (200-300 mesh) eluting with 5/1 petroleum ether/ethyl acetate to give the title compound. MS: 220 (M+H+).

reactant | 4-amino-3-methoxybenzoic acid | 1 mmol, 167 mg | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
reactant | pyrrolidine | 1 mmol, 71 mg | N1CCCC1 | C4H9N
reactant | hydroxybenzotriazole monohydrate | 2 mmol, 270 mg | O.OC1=CC=CC=2NN=NC21
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 2 mmol, 384 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 3 mmol, 0.5 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | (4-amino-3-methoxyphenyl)(pyrrolidin-1-yl)methanone | NC1=C(C=C(C=C1)C(=O)N1CCCC1)OC | C12H16N2O2
